US07557237B2
3-BROMO-7-METHOXY-1-NAPHTHONITRILE
To slurry of 3,8-dibromo-7-methoxy-1-naphthonitrile (1.62 kg) and Tin (II) chloride dihydrate (1.24 kg, 5.50 mol) in acetic acid (5 L) is added conc. HCl (37% wt, 2.50 L) through a dropping funnel at 100° C. during a period of 2 h. The mixture is stirred at 100° C. for 4 h. Then, the mixture is cooled to room temperature. The solid is filtered, washed with 1% wt HCl (2×1.00 L), water (1.00 L) and dried to give the title compound as a white solid (524 g, 73%). 1H NMR (CDCl3): δ8.13 (d, 1H, J=1.8 Hz), 7.93 (d, 1H, J=1.9 Hz), 7.72 (d, 1H, J=9.0 Hz),7.41 (d, 1H, J=2.4 Hz), 7.28 (dd, 1H, J=2.4 Hz, 9.0 Hz), 3.99 (s, 3H).

reactant | 3,8-dibromo-7-methoxy-1-naphthonitrile | 1.62 kg | BrC=1C=C(C2=C(C(=CC=C2C1)OC)Br)C#N | C12H7Br2NO
reactant | Tin (II) chloride dihydrate | 5.50 mol, 1.24 kg | O.O.[Sn](Cl)Cl
reactant | HCl | Cl | ClH
solvent | acetic acid | 5 L | C(C)(=O)O | C2H4O2
product | 3-BROMO-7-METHOXY-1-NAPHTHONITRILE | 524 g, 73% | BrC=1C=C(C2=CC(=CC=C2C1)OC)C#N | C12H8BrNO
